US07678794B2
Synthesis of 1-(2,4-bis-benzyloxy-3-trifluoromethyl-phenyl)-ethanone
Add tetrakis(triphenylphosphine)palladium (2.93 g, 2.54 mmol) to a solution of 1,3-bis-benzyloxy-4-bromo-2-trifluoromethyl-benzene (11.10 g, 25.4 mmol) and tributyl-(1-ethoxy-vinyl)-stannane (10.08 g, 27.92 mmol) in dioxane (250 mL) and stir. Purge reaction vessel with argon. Heat to 100° C. After 6 hours, cool to ambient temperature and concentrate under reduced pressure. Add 2N aqueous hydrochloric acid (50 mL), and tetrahydrofuran (200 mL) and stir. After 30 minutes add water and extract with ethyl acetate. Combine organic layers, dry with sodium sulfate, filter and concentrate under reduced pressure to yield a residue. Purify the residue by flash chromatography eluting with a gradient of 0-20% ethyl acetate:hexanes to yield the title compound as a clear oil (6.10 g, 60%): 1H NMR (CD3CN) δ 2.48 (s, 3H), 4.89 (s, 2H), 5.25 (s, 2H), 7.08 (d, 1H), 7.33-7.48 (m, 10H), 7.83 (d, 1H).

reactant | 1,3-bis-benzyloxy-4-bromo-2-trifluoromethyl-benzene | 25.4 mmol, 11.10 g | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)Br)OCC1=CC=CC=C1)C(F)(F)F | C21H16BrF3O2
reactant | tributyl-(1-ethoxy-vinyl)-stannane | 27.92 mmol, 10.08 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 2.54 mmol, 2.93 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2,4-bis-benzyloxy-3-trifluoromethyl-phenyl)-ethanone | 6.10 g, 60% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1C(F)(F)F)OCC1=CC=CC=C1)C(C)=O | C23H19F3O3
